US06133263
3-Benzo[1,3]dioxol-5-yl-5-(3-dimethylamino-propoxy)-5-(4-methoxy-phenyl)-4-(3,4,5-trimethoxy-benzyl)-5H-furan-2-one
To 125 mL dichloromethane was added 3-Benzo[1,3]dioxol-5-yl-5-hydroxy-5-(4-methoxy-phenyl)-4-(3,4,5-trimethoxy-benzyl)-5H-furan-2-one 3.0 g (5.92 mmol), giving a suspension. N,N-dimethyl-propanolamine 2 g (19.4 mmol) was added, and the mixture was purged with anhydrous HCl gas until saturated. After an hour at room temperature, additional N,N-dimethylethanolamine 1 g (9.69 mmol) was added, followed by stirring for 24 hours at room temperature. The mixture was evaporated in vacuo and the residue was suspended in ethyl ether. The ether suspension was washed exhaustively with 4 N NaOH, followed by water and saturated sodium chloride solution. The ether phase was dried over anhydrous magnesium sulfate, filtered, and diluted with hexane, giving a solid. Filter and dry in vacuo, giving a white solid, 1.65 g. The product was identified by 1H NMR, MS [M--H]+ =592 Da.

reactant | 3-Benzo[1,3]dioxol-5-yl-5-hydroxy-5-(4-methoxy-phenyl)-4-(3,4,5-trimethoxy-benzyl)-5H-furan-2-one | 5.92 mmol, 3.0 g | O1COC2=C1C=CC(=C2)C=2C(OC(C2CC2=CC(=C(C(=C2)OC)OC)OC)(C2=CC=C(C=C2)OC)O)=O | C28H26O9
reactant | N,N-dimethyl-propanolamine | 19.4 mmol, 2 g | CN(C)CCCO | C5H13NO
reactant | N,N-dimethylethanolamine | 9.69 mmol, 1 g | CN(CCO)C | C4H11NO
solvent | dichloromethane | 125 mL | ClCCl | CH2Cl2
product | 3-Benzo[1,3]dioxol-5-yl-5-(3-dimethylamino-propoxy)-5-(4-methoxy-phenyl)-4-(3,4,5-trimethoxy-benzyl)-5H-furan-2-one | O1COC2=C1C=CC(=C2)C=2C(OC(C2CC2=CC(=C(C(=C2)OC)OC)OC)(C2=CC=C(C=C2)OC)OCCCN(C)C)=O | C33H37NO9
